US07851157B1
8-Bromo-2′-deoxyadenosine (4.2 g, 12.5 mmol) prepared in above was dissolved in 80% acetic acid-acetic anhydride (1:1, v/v, 250 mL), and sodium acetate (18.5 g, 225 mmol) was added thereto. The mixture was stirred at 120° C. for 3 hours and then extracted with ethyl acetate-water (500 mL/500 mL). The organic layers were combined, and the solvent was removed under reduced pressure. The obtained crude product was dissolved in 28% aqueous ammonia-pyridine (1:1, v/v, 250 mL). The solution was stirred at room temperature for 5 hours. Then, the reaction solvent was evaporated under reduced pressure. The resulting solid was sufficiently washed with ethanol and filtered to give 2′-deoxy-7,8-dihydro-6-N-acetyladenosin-8-one (1.9 g, yield: 55%).

reactant | 8-Bromo-2′-deoxyadenosine | 12.5 mmol, 4.2 g | BrC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C10H12BrN5O3
reactant | sodium acetate | 225 mmol, 18.5 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid-acetic anhydride | 250 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ammonia pyridine | 250 mL | N.N1=CC=CC=C1
product | 2′-deoxy-7,8-dihydro-6-N-acetyladenosin-8-one | 1.9 g, yield: 55% | C(C)(=O)NC=1C=2NC(N([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1)=O | C12H15N5O5
